US08754253B2
Comments—example 4 shows that from a high ester content glycerin, using butyl acetate as azeotropic agent, methanesulfonic acid as catalyst, in the presence of combined alkalinity and complementing the reaction with acetic anhydride, it is possible to obtain a food grade triacetin.

reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | butyl acetate | C(C)(=O)OCCCC | C6H12O2
catalyst | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
product | triacetin | CC(OCC(OC(C)=O)COC(C)=O)=O | C9H14O6
